US05958373
2,5-Bis-(1,4,7,10-tetraazacyclododecan-1-yl)hexan-1,6-dioic acid
A mixture of cyclen (60.75 g, 350 mmol), meso-2,5-dibromoadipic acid (10.57 g, 35 mmol), and 1M lithium hydroxide (70 mL, 70 mmol) in water (104 mL) was heated to 60° C. under nitrogen for 170 hours. After cooling to ambient temperature, the reaction mixture was applied to an AG1X8 anion exchange column [400 mL (OH-form)]. The column was washed thoroughly with water (4 L), and the product was eluted with 0.5M acetic acid (2 L). Fractions containing product were combined, chased with water (3×200 mL) and ethanol (3×100 mL) to yield the title product (8.75 g, 51.8%) as a white, hygroscopic foam. Unreacted cyclen was reclaimed by concentration of the first 2 L of eluent and recrystallization from water. 1H NMR: (D2O) δ 2.75-2.90 (br mult, 34H), 1.52 (br, 4H). 13C NMR: (D2O) 24.3, 40.5, 41.1, 41.3, 41.6, 43.1, 44.9, 63.0, 177.1. MS (FAB): m/e 487.4 (MH+).

reactant | cyclen | 350 mmol, 60.75 g | N1CCNCCNCCNCC1 | C8H20N4
reactant | meso-2,5-dibromoadipic acid | 35 mmol, 10.57 g | C(CC(C(=O)O)Br)C(C(=O)O)Br | C6H8Br2O4
reactant | lithium hydroxide | 70 mmol, 1M, 70 mL | [OH-].[Li+]
solvent | water | 104 mL | O | H2O
product | 2,5-Bis-(1,4,7,10-tetraazacyclododecan-1-yl)hexan-1,6-dioic acid | 8.75 g, 51.8% | N1(CCNCCNCCNCC1)C(C(=O)O)CCC(C(=O)O)N1CCNCCNCCNCC1 | C22H46N8O4
